### PR TITLE
tensor product distributes over direct sum

### PR DESCRIPTION
**Pull request by Alizter**
We show that tensor products distribute over sums.

### CODE REVIEW

File: theories/Algebra/AbGroups/Biproduct.v [hunk 1]
```diff
@@ -23,6 +23,45 @@ Definition ab_biprod_inr {A B : AbGroup} : B $-> ab_biprod A B := grp_prod_inr.
 Definition ab_biprod_pr1 {A B : AbGroup} : ab_biprod A B $-> A := grp_prod_pr1.
 Definition ab_biprod_pr2 {A B : AbGroup} : ab_biprod A B $-> B := grp_prod_pr2.
 
+(** Pairs in biproducts can be decomposed *)
+Definition ab_biprod_decompose {A B : AbGroup} (a : A) (b : B)
+  : (a, b) = ((a, group_unit) : ab_biprod A B) + (group_unit, b).
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:28]: This is true for non-abelian groups as well, so it could be moved to Group.v and stated for grp_prod.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 2]
```diff
@@ -23,6 +23,45 @@ Definition ab_biprod_inr {A B : AbGroup} : B $-> ab_biprod A B := grp_prod_inr.
...
+Proof.
+  snrapply path_prod; symmetry.
+  - snrapply grp_unit_r.
+  - snrapply grp_unit_l.
+Defined.
+
+Definition ab_biprod_ind_hprop {A B : AbGroup}
+  (P : ab_biprod A B -> Type)
+  (H : forall x, IsHProp (P x))
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:37]: This assumption isn't used.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 3]
```diff
@@ -23,6 +23,45 @@ Definition ab_biprod_inr {A B : AbGroup} : B $-> ab_biprod A B := grp_prod_inr.
...
+  apply Hop.
+  - exact (Hinl a).
+  - exact (Hinr b).
+Defined.
+
+Definition ab_biprod_ind_homotopy {A B C : AbGroup}
+  {f g : ab_biprod A B $-> C}
+  (Hinl : f $o ab_biprod_inl $== g $o ab_biprod_inl)
+  (Hinr : f $o ab_biprod_inr $== g $o ab_biprod_inr)
+  : f $== g.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:54]: This is already later in the file with the name `ab_biprod_corec_eta'`.  I don't know why that name has "corec" in it, since it seems to be about the recursion principle.  The same comment about naming applies to `equiv_path_biprod_corec`.  Also, both of those results seem to follow from `isequiv_ab_biprod_rec`.  Or maybe the proof of `isequiv_ab_biprod_rec` can be simplified by using these results?  There is definitely some overlap here.

File: theories/Algebra/AbGroups/TensorProduct.v [hunk 4]
```diff
@@ -807,4 +807,52 @@ Proof.
     reflexivity.
 Defined.
 
+(** ** Tensor products distribute over direct sums *)
+
+Definition ab_tensor_prod_dist_l {A B C : AbGroup}
+  : ab_tensor_prod A (ab_biprod B C)
+    $<~> ab_biprod (ab_tensor_prod A B) (ab_tensor_prod A C).
+Proof.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/TensorProduct.v:815]: Is it possible to make the goals easier to read in this proof?  Maybe the trick of naming the two functions would help?  And maybe some carefully `simpl` or `cbn` commands would help?

File: theories/Algebra/AbGroups/Biproduct.v (hunk 3 above)
Comment (Alizter) [reply theories/Algebra/AbGroups/Biproduct.v:54]: I don't know about `isequiv_ab_biprod_rec` but I managed to show the others are special cases. I think this entire file needs some clean up as there are some duplicated results, but I don't really want to do that here.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 5]
```diff
@@ -23,6 +23,35 @@ Definition ab_biprod_inr {A B : AbGroup} : B $-> ab_biprod A B := grp_prod_inr.
 Definition ab_biprod_pr1 {A B : AbGroup} : ab_biprod A B $-> A := grp_prod_pr1.
 Definition ab_biprod_pr2 {A B : AbGroup} : ab_biprod A B $-> B := grp_prod_pr2.
 
+Definition ab_biprod_ind_hprop {A B : AbGroup}
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:26]:
```suggestion
Definition ab_biprod_ind {A B : AbGroup}
```
(with a corresponding change when used)

File: theories/Algebra/AbGroups/TensorProduct.v [hunk 6]
```diff
@@ -807,4 +807,52 @@ Proof.
...
+  srapply (let f := _ in let g := _ in cate_adjointify f g _ _).
+  - snrapply ab_tensor_prod_rec.
+    + intros a bc.
+      exact (tensor a (fst bc), tensor a (snd bc)).
+    + intros a bc bc'.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/TensorProduct.v:820]:
```suggestion
    + intros a bc bc'; cbn beta.
```

File: theories/Algebra/AbGroups/TensorProduct.v [hunk 7]
```diff
@@ -807,4 +807,52 @@ Proof.
...
+      snrapply path_prod'; snrapply tensor_dist_l.
+    + intros a a' bc.
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/TensorProduct.v:822]:
```suggestion
    + intros a a' bc; cbn beta.
```

File: theories/Algebra/AbGroups/Biproduct.v (hunk 3 above)
Comment (jdchristensen) [reply theories/Algebra/AbGroups/Biproduct.v:44]: Ok, that's fine.

File: theories/Algebra/AbGroups/Biproduct.v [hunk 8]
```diff
@@ -175,33 +223,14 @@ Defined.
...
-Proof.
-  intros h k.
-  intros [a b].
-  refine (ap f (ab_biprod_decompose _ _) @ _ @ ap g (ab_biprod_decompose _ _)^).
-  exact (grp_homo_op_agree f g (h a) (k b)).
-Defined.
-
 (* Maps out of biproducts are determined on the two inclusions. *)
-Lemma equiv_path_biprod_corec `{Funext} {A B X : AbGroup} (phi psi : ab_biprod A B $-> X)
+Lemma equiv_ab_biprod_ind_homotopy `{Funext} {A B X : AbGroup} (phi psi : ab_biprod A B $-> X)
```
Comment (jdchristensen) [inline theories/Algebra/AbGroups/Biproduct.v:227]: I think this should be moved to right after `ab_biprod_ind_homotopy`.

**Review by jdchristensen — APPROVED** [review]
LGTM after the minor cleanups I just indicated.

**Comment by Alizter** [comment]
FTR we will eventually prove a more general version of this lemma for indexed products/biproducts but this will probably end up requiring funext if we go through the adjunction route. So its good to have this simple case explicitly written out.
